US09120825B2
In an argon atmosphere, a dilithium(N,N′-di-tert-butyl-1,2-vinylenediaminide) solution prepared by using 32.00 g of tBuNCHCHNtBu, 50 mL of tetrahydrofuran, 150 mL of hexane and 2.67 g of lithium according to the procedure described in Reference Example-9 was added to a hexane (120 mL) solution containing 25.20 g (186.0 mmol) of trichlorosilane, and the mixture was stirred at room temperature for 4 hours. To this reaction mixture, 30.00 g (410.2 mmol) of diethylamine was added, and the mixture was stirred at room temperature for 5 hours. Insoluble matters produced were separated by filtration, and the solvent was removed by distillation from the filtrate under atmospheric pressure. The obtained residue was distilled under reduced pressure (distillation temperature: 102° C./4.0×102 Pa) to obtain 1,3-di-tert-butyl-2-diethylamino-1,3-diaza-2-silacyclopent-4-ene (Si(tBuNCHCHNtBu)(H)NEt2) as a pale yellow liquid (yielded amount: 30.29 g, yield: 60%).

reactant | dilithium(N,N′-di-tert-butyl-1,2-vinylenediaminide) | C(C)(C)(C)[N-]C=C[N-]C(C)(C)C.[Li+].[Li+]
reactant | lithium | 2.67 g | [Li] | Li
reactant | trichlorosilane | 186.0 mmol, 25.20 g | Cl[SiH](Cl)Cl | Cl3HSi
reactant | diethylamine | 410.2 mmol, 30.00 g | C(C)NCC | C4H11N
solvent | hexane | 120 mL | CCCCCC | C6H14
solvent | hexane | 150 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1,3-di-tert-butyl-2-diethylamino-1,3-diaza-2-silacyclopent-4-ene | yield: 60% | C(C)(C)(C)N1[SiH](N(C=C1)C(C)(C)C)N(CC)CC | C14H31N3Si
